US07816558B2
4-(Benzyloxy)-3-cyanobenzenecarbothioamide and methyl 2-chloro-3-oxopropionate were heated under reflux in 1-butanol in the presence of Molecular Sieves 4A to obtain methyl 2-[4-(benzyloxy)-3-cyanophenyl]-1,3-thiazole-5-carboxylate. AP: 373(Na).

reactant | 4-(Benzyloxy)-3-cyanobenzenecarbothioamide | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(N)=S)C#N | C15H12N2OS
reactant | methyl 2-chloro-3-oxopropionate | ClC(C(=O)OC)C=O | C4H5ClO3
solvent | 1-butanol | C(CCC)O | C4H10O
product | methyl 2-[4-(benzyloxy)-3-cyanophenyl]-1,3-thiazole-5-carboxylate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=1SC(=CN1)C(=O)OC)C#N | C19H14N2O3S
